US07767690B2
j) 4(S)-(2-Carboxy-2-methyl-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
A mixture of 9.48 g of 4(S)-(2-benzyloxycarbonyl-2-methyl-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester and 2.58 g of 10% Pd/C in 100 ml of ethyl acetate is hydrogenated at room temperature for 4.5 hours. The solid is removed by filtration over Hyflo®. The mixture is concentrated and re-dissolved in ethyl acetate and 2N NaOH. The layers are separated and the aqueous layer is extracted with ethyl acetate (2×). The aqueous layer is acidified to pH 3 with 4M HCl and extracted with ethyl acetate (3×). The combined organic layers from the second extraction are dried over sodium sulphate, filtered and concentrated. The crude title compound is obtained as a colourless oil. Rf=0.43 (EtOAc-heptane 1:1); Rt=4.23 (gradient I).

reactant | 4(S)-(2-benzyloxycarbonyl-2-methyl-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 9.48 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(C)(C)C(=O)OCC1=CC=CC=C1)(C)C | C22H33NO5
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 2.58 g | [Pd] | Pd
product | 4(S)-(2-Carboxy-2-methyl-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(C)(C)C(=O)O)(C)C | C15H27NO5
